US05604229
(1) Ethyl 2-Ethoxycarbonyl-4-(4-octylphenyl)butyrate
Sodium (2.67 g) was dissolved in absolute ethanol (100 ml) and diethyl malonate (18.6 g) was dropwise added thereto at 27°-30° C. for 3 minutes. The mixture was stirred at 40° C. for 40 minutes and 2-(4-octylphenyl)ethyl iodide (40 g) was dropwise added to the reaction mixture at 44°-45° C. over 10 minutes. The mixture was refluxed at 50° C. for 1 hour and stirred under heating for 1.5 hours. The reaction mixture was cooled and the solvent was distilled away under reduced pressure. Water was added thereto and extracted with ethyl acetate. The extract was washed with water and dried over magnesium sulfate. The solvent was distilled away under reduced pressure and the residue obtained was subjected to silica gel column chromatography to give the subject compound (28.8 g).

reactant | Sodium | 2.67 g | [Na] | Na
reactant | diethyl malonate | 18.6 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 2-(4-octylphenyl)ethyl iodide | 40 g | C(CCCCCCC)C1=CC=C(C=C1)CCI | C16H25I
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Ethyl 2-Ethoxycarbonyl-4-(4-octylphenyl)butyrate | 28.8 g | C(C)OC(=O)C(C(=O)OCC)CCC1=CC=C(C=C1)CCCCCCCC | C23H36O4
